US07208494B2
To a solution of 2.885 g (4R,9aR)-7-fluoro-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester in 60 mL toluene at −78° C. was added 8.72 mL of a ca. 1.3 M solution of sec. butyl lithium in cyclohexane over 10 min. The orange mixture was stirred at −78° C. for 30 min. To the resulting viscous solution was added 1.00 mL dimethylformamide and the mixture was stirred at −78° C. for 1.5 h. To the reaction mixture was added 100 mL of a 10% citric acid solution in water. The phases were separated and the organic phase was evaporated to dryness and purified by chromatography on silica gel with heptane:ethyl acetate=2:1 to yield 0.585 g (4R,9aR)7-fluoro-6-formyl-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester as yellow-orange crystals; m.p.: 139–140° C. and 0.800 g (4R,9aR)-7-Fluoro-8-formyl-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester.

reactant | (4R,9aR)-7-fluoro-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester | 2.885 g | C(C)(C)(C)OC(=O)N1C[C@H]2CC3=CC(=CN=C3N2[C@@H](C1)C)F | C16H22FN3O2
reactant | sec. butyl lithium | C(C)(CC)[Li]
reactant | dimethylformamide | 1.00 mL | CN(C=O)C | C3H7NO
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
solvent | cyclohexane | C1CCCCC1 | C6H12
solvent | water | O | H2O
product | (4R,9aR)7-fluoro-6-formyl-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester | 0.585 g | C(C)(C)(C)OC(=O)N1C[C@H]2CC3=CC(=C(N=C3N2[C@@H](C1)C)C=O)F | C17H22FN3O3
